US06492383B1
2-[2-(tert-Butyl-dimethyl-silanyl)-3-methyl-3H-imidazol-4-yl]-7-chloro-thieno[3,2-b]pyridine (912 mg, 2.50 mmol) was dissolved in 15 mL of methanol and 10 mL of 1N aqueous hydrochloric acid and heated to 35° C. overnight. The solution was cooled, diluted with water, and extracted with ethyl acetate (3×30 mL). The aqueous layer was made basic (pH 9) with 1N aqueous sodium hydroxide and extracted with chloroform (3×30 mL). The combined extracts were dried over Na2SO4, filtered, and concentrated to afford 528 mg (84%) of 7-chloro-2-(3-methyl-3H-imidazol-4-yl)-thieno[3,2-b]pyridine. 1H NMR (400 MHz, CD3OD) δ8.58 (d, 1H), 7.84 (s, 1H), 7.68 (s, 1H), 7.47 (d, 1H), 7.42 (s, 1H), 3.93 (s, 3H). LC-MS: 250.1, 252 (MH+); HPLC RT: 4.40 min.

reactant | 2-[2-(tert-Butyl-dimethyl-silanyl)-3-methyl-3H-imidazol-4-yl]-7-chloro-thieno[3,2-b]pyridine | 2.50 mmol, 912 mg | C(C)(C)(C)[Si](C1=NC=C(N1C)C1=CC2=NC=CC(=C2S1)Cl)(C)C | C17H22ClN3SSi
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | water | O | H2O
product | 7-chloro-2-(3-methyl-3H-imidazol-4-yl)-thieno[3,2-b]pyridine | 528 mg, 84% | ClC1=C2C(=NC=C1)C=C(S2)C=2N(C=NC2)C | C11H8ClN3S
